US05434150
Methyl 4-[N-(4-cyano-benzoyl)-methylamino]-3-nitro-benzoate
A mixture of 13.1 g of methyl 4-methylamino-3-nitro-benzoate, 10.3 g of 4-cyano-benzoylchloride and 75 ml of phosphorusoxychloride is stirred for 8 hours at 100° C. After cooling, the mixture is decomposed with water and the aqueous phase is extracted with ethyl acetate. The ethyl acetate phases are washed with soda solution and concentrated by evaporation. The residue is dissolved in a little acetone and ether is slowly added. The quantities precipitated initially (about 1.2 g) are discarded. After further ether has been added the desired substance is precipitated. Yield: 10.2 g (48% of theory), Rf value: 0.54 (silica gel; ethyl acetate/petroleum ether =7:3)

reactant | methyl 4-methylamino-3-nitro-benzoate | 13.1 g | CNC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H10N2O4
reactant | 4-cyano-benzoylchloride | 10.3 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | phosphorusoxychloride | 75 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | Methyl 4-[N-(4-cyano-benzoyl)-methylamino]-3-nitro-benzoate | C(#N)C1=CC=C(C(=O)N(C2=C(C=C(C(=O)OC)C=C2)[N+](=O)[O-])C)C=C1 | C17H13N3O5
